US05728712
N-(3,4-Dimethoxybenzenesulphonyl)-3-carboxy-1,2,3,4-tetrahydroisoquinoline.
A solution of N-(3,4-dimethoxybenzenesulphonyl)-3-methoxycarbonyl-1,2,3,4-tetrahydro-isoquinoline(0.5 g) in THF (30 ml) was treated with a saturated aqueous solution of lithium hydroxide (3 ml) at room temperature. After stirring overnight, the solvent was removed in vacuo. The residue was diluted with water (10 ml), washed with ethyl acetate (10 ml) and acidified with 2M hydrochloric acid. The aqueous phase was extracted with ethyl acetate (2×30 ml); these extracts were combined and dried (magnesium sulphate). Evaporation of the solvent in vacuo and recrystallization of the residue from ethyl acetate/hexane afforded the title compound as a whim solid (0.44 g).

reactant | N-(3,4-dimethoxybenzenesulphonyl)-3-methoxycarbonyl-1,2,3,4-tetrahydro-isoquinoline | 0.5 g | COC=1C=C(C=CC1OC)S(=O)(=O)N1CC2=CC=CC=C2CC1C(=O)OC | C19H21NO6S
reactant | lithium hydroxide | 3 ml | [OH-].[Li+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N-(3,4-Dimethoxybenzenesulphonyl)-3-carboxy-1,2,3,4-tetrahydroisoquinoline | COC=1C=C(C=CC1OC)S(=O)(=O)N1CC2=CC=CC=C2CC1C(=O)O | C18H19NO6S
